US07662821B2
4-{[7-Bromo-2,5-dihydroxy-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino}-1,3-dihydroindol-2-one
235.9 mg of 4-{[4-(4bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}-1,3-dihydroindol-2-one is mixed at 0° C. with 6.42 ml of a 1 M solution of BBr3 in dichloromethane and stirred for four hours at room temperature. At 0° C., saturated sodium bicarbonate solution is carefully added in drops. After 3× extraction with ethyl acetate, the organic phases are dried on sodium sulfate. The desiccant is suctioned off, and the solvent is spun off. The residue is chromatographed on a Flashmaster. 125.4 mg (54%) of the desired compound is isolated.

reactant | 4-{[4-(4bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}-1,3-dihydroindol-2-one | 235.9 mg | BrC1=CC(=C(C=C1)C(CC(C=NC1=C2CC(NC2=CC=C1)=O)(C(F)(F)F)O)(C)C)OC | C22H22BrF3N2O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{[7-Bromo-2,5-dihydroxy-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino}-1,3-dihydroindol-2-one | 125.4 mg, 54% | BrC1=CC(=C2C(CC(C(C2=C1)NC1=C2CC(NC2=CC=C1)=O)(C(F)(F)F)O)(C)C)O | C21H20BrF3N2O3
